US07018997B2
Step 1: Preparation of (2,3-Dihydro-benzo[4,5]imidazo[2,1-b]thiazol-7-yl)-methanol
To a round bottomed flask was added 2.83 grams of 2-Thioxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester, 2.55 grams of dibromoethane and 50 ml DMF and 50 ml ethanol. The mixture was refluxed for 10 hours. Then it was concentrated to dry on a rotary evaporator. The solid was next dissolved in 100 ml THF and 20 ml of 1 M LiAlH4 (in THF) was next injected within five minutes. The reaction media was stirred at room temperature for one hour. Ethanol was next added (˜10 ml), followed by 50 ml 2N HCl. The aqueous layer was adjusted to basic Ph=14 with 10N sodium hydroxide. The aqueous was extracted with 2×500 ml ethyl acetate. The combined organic layers was dried over magnesium sulfate. Filter off the drying agent and cocentrate yielded 2.04 grams (60%) product. MS: 207.0 (M+H). H-NMR(DMSO): □ 7.34(m, 2H), 7.08 (m, 1H), 5.15(m, 1H, OH), 4.53 (m, 2H, CH2), 4.34 (m, 2H, CH2), 4.00 (m, 2H, CH2).

reactant | 2-Thioxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester | 2.83 grams | COC(=O)C1=CC2=C(NC(N2)=S)C=C1 | C9H8N2O2S
reactant | dibromoethane | 2.55 grams | BrC(C)Br | C2H4Br2
reactant | HCl | 2N, 50 ml | Cl | ClH
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | Ethanol | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (2,3-Dihydro-benzo[4,5]imidazo[2,1-b]thiazol-7-yl)-methanol | 2.04 grams, 60% | S1C=2N(CC1)C1=C(N2)C=C(C=C1)CO | C10H10N2OS
